US04096267
Step A: 2-(4-Fluorophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone
Potassium tert-butoxide (3.38 g., 0.03 mole) dissolved in tert-butanol (150 ml.) is added to a refluxing solution of 2-methyl-5-methoxy-6,7-dichloro-1-indanone (4.90 g., 0.02 mole) in tert-butanol (50 ml.)-benzene (200 ml.), refluxing is continued for 3 hours, then 4,4'-difluorodiphenyliodonium chloride (10.58 g., 0.03 mole) is added and refluxing is continued for 21/2 hours. The reaction mixture is cooled to 25° C., 100 ml. water added, and the mixture concentrated to dryness in vacuo to give 1.24 g. of 2-(4-fluorophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone which melts at 163°-170° C. on treatment with ether-hexane and is used without further purification.

reactant | Potassium tert-butoxide | 0.03 mole, 3.38 g | CC(C)([O-])C.[K+]
reactant | 2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.02 mole, 4.90 g | CC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C11H10Cl2O2
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | 4,4'-difluorodiphenyliodonium chloride | 0.03 mole, 10.58 g | C1=CC(=CC=C1F)[I+]C2=CC=C(C=C2)F.[Cl-]
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone | FC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C17H13Cl2FO2
